US06921623B2
(ii) Synthesis of 1-(2-trimethoxysilylvinyl)-4-(t-butoxycarbonyloxy)benzene
Into a mixture of 20 ml of triethylamine and 40 ml of acetonitrile, were dissolved 15.0 g (54.9 mmol) of 1-(t-butoxycarbonyloxy)-4-bromobenzene synthesized in the step (i) and 9.76 g (65.9 mmol) of vinyltrimethoxysilane, and the reaction system was substituted by argon by bubbling argon in thus obtained solution. In the reaction system, was added 246.5 mg (1.1 mmol) of palladium acetate as a catalyst, the mixture was refluxed for one night. After completion of the reaction, solvent was removed, and the obtained residue was extracted by hexane. Hexane was removed from the extraction to prepare 9.5 g of 1-(2-trimethoxysilylvinyl)-4-(t-butoxycarbonyloxy)benzene being the objective compound.

reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(t-butoxycarbonyloxy)-4-bromobenzene | 54.9 mmol, 15.0 g | C(C)(C)(C)OC(=O)OC1=CC=C(C=C1)Br | C11H13BrO3
reactant | vinyltrimethoxysilane | 65.9 mmol, 9.76 g | C(=C)[Si](OC)(OC)OC | C5H12O3Si
catalyst | palladium acetate | 1.1 mmol, 246.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 1-(2-trimethoxysilylvinyl)-4-(t-butoxycarbonyloxy)benzene | CO[Si](C=CC1=CC=C(C=C1)OC(=O)OC(C)(C)C)(OC)OC | C16H24O6Si
